US08124766B2
4-{5-[(4-Chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester
This compound was prepared from 4-chloro-benzo[b]thiophene-2-carboxylic acid and 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tort-butyl ester as described in the preparation of the intermediate section. LCMS for C23H25ClN4O3S calcd. (m/e) 472, observed 471 (M−H).

reactant | 4-chloro-benzo[b]thiophene-2-carboxylic acid | ClC1=CC=CC=2SC(=CC21)C(=O)O | C9H5ClO2S
reactant | 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)O | C10H14N4O2
product | 4-{5-[(4-Chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C1=CC2=C(S1)C=CC=C2Cl | C23H25ClN4O3S
